US06492393B1
(Method B): 1-[5-tert-butyl-2-methylphenyl]-3-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-urea
4-[2-(Morpholin-4-yl)ethoxy]napth-1-yl-amine (280 mg, 1.0 mmol) was dissolved in dichloromethane (15 mL). An equal volume of sat. aqueous sodium bicarbonate was added, and the biphasic solution was cooled to 0° C. During the addition of phosgene (1.93 M in toluene, 1.0 mL), stirring was stopped. Immediately afterward, stirring was resumed for 15 min with the reaction mixture at 0° C. The layers were separated, the organics were dried over solid magnesium sulfate and concentrated to approximately 5 mL of solution. 5-tert-Butyl-2-methylaniline (150 mg, 0.9 mmol) in dichloromethane (5 mL) was added, and the reaction mixture was stirred for 17 h at ambient temperature. The desired compound was obtained after treatment of the reaction mixture with petroleum ether and filtering to collect the precipitate (180 mg, 42%).

reactant | 4-[2-(Morpholin-4-yl)ethoxy]napth-1-yl-amine | 1.0 mmol, 280 mg | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosgene | 1.93 M, 1.0 mL | C(=O)(Cl)Cl | CCl2O
reactant | 5-tert-Butyl-2-methylaniline | 0.9 mmol, 150 mg | C(C)(C)(C)C=1C=CC(=C(N)C1)C | C11H17N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[5-tert-butyl-2-methylphenyl]-3-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-urea | C(C)(C)(C)C=1C=CC(=C(C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)OCCN1CCOCC1)C | C28H35N3O3
